### PR TITLE
[Merged by Bors] - feat: define the union of two coverages

### PR DESCRIPTION
**Pull request by dagurtomas**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coverage.lean [hunk 1]
```diff
@@ -285,6 +285,17 @@ theorem toGrothendieck_eq_sInf (K : Coverage C) : toGrothendieck _ K =
     intro X S hS
     apply saturate.of _ _ hS
 
+/-- The union of two coverages is a coverage. -/
+@[simps]
+def union (x y : Coverage C) : Coverage C where
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Sites/Coverage.lean:290]: Would it make sense to make this a `Sup` instance? Is `SemilatticeSup (Coverage C)` true?

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coverage.lean:290]: Done!

File: Mathlib/CategoryTheory/Sites/Coverage.lean [hunk 2]
```diff
@@ -285,6 +285,28 @@ theorem toGrothendieck_eq_sInf (K : Coverage C) : toGrothendieck _ K =
...
+  covering B := x.covering B ∪ y.covering B
+  pullback := by
+    rintro X Y f S (hx | hy)
+    · obtain ⟨T, hT⟩ := x.pullback f S hx
+      exact ⟨T, Or.inl hT.1, hT.2⟩
+    · obtain ⟨T, hT⟩ := y.pullback f S hy
+      exact ⟨T, Or.inr hT.1, hT.2⟩
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Sites/Coverage.lean:297]: I think it would be best to drop the definition altogether, as
```suggestion
/-- The union of two coverages is a coverage. -/
instance : Sup (Coverage C) where
  sup x y :=
  { covering B := x.covering B ∪ y.covering B
    pullback := by
      rintro X Y f S (hx | hy)
      · obtain ⟨T, hT⟩ := x.pullback f S hx
        exact ⟨T, Or.inl hT.1, hT.2⟩
      · obtain ⟨T, hT⟩ := y.pullback f S hy
        exact ⟨T, Or.inr hT.1, hT.2⟩ }
```
You'll unfortunately need to write the `simps` lemma manually, but you're currently missing the lemma spelt in terms of `\sup` anyway.

File: Mathlib/CategoryTheory/Sites/Coverage.lean [hunk 3]
```diff
@@ -285,6 +285,28 @@ theorem toGrothendieck_eq_sInf (K : Coverage C) : toGrothendieck _ K =
...
+
+instance : SemilatticeSup (Coverage C) where
+  sup x y := x.union y
+  toPartialOrder := inferInstance
+  le_sup_left _ _ _:= by
+    simp only [union_covering, Set.le_eq_subset, Set.subset_union_left]
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Sites/Coverage.lean:303]: Does something like this work, after fixing the number of underscores?
```suggestion
  le_sup_left _ _ _ := Set.subset_union_left _ _ _
```

File: Mathlib/CategoryTheory/Sites/Coverage.lean (hunk 2 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coverage.lean:297]: I would like to keep the `union` notation. It feels more natural to me than `sup`. I can write the `simps` lemma in terms of `\sup` though

File: Mathlib/CategoryTheory/Sites/Coverage.lean [hunk 4]
```diff
@@ -285,6 +285,29 @@ theorem toGrothendieck_eq_sInf (K : Coverage C) : toGrothendieck _ K =
...
+  toPartialOrder := inferInstance
+  le_sup_left _ _ _ := Set.subset_union_left _ _
+  le_sup_right _ _ _ := Set.subset_union_right _ _
+  sup_le _ _ _ hx hy X := Set.union_subset_iff.mpr ⟨hx X, hy X⟩
+
+@[simp]
+lemma sup_covering (x y : Coverage C) (B : C) :
+    (x ⊔ y).covering B = x.covering B ∪ y.covering B :=
+  union_covering x y B
+
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Sites/Coverage.lean:310]: Maybe also add a (non-simp) lemma `sup_eq_union`, that allows for easy rewriting between the two spellings.

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/CategoryTheory/Sites/Coverage.lean [hunk 5]
```diff
@@ -285,6 +285,31 @@ theorem toGrothendieck_eq_sInf (K : Coverage C) : toGrothendieck _ K =
...
+  sup x y := x.union y
+  toPartialOrder := inferInstance
+  le_sup_left _ _ _ := Set.subset_union_left _ _
+  le_sup_right _ _ _ := Set.subset_union_right _ _
+  sup_le _ _ _ hx hy X := Set.union_subset_iff.mpr ⟨hx X, hy X⟩
+
+@[simp]
+lemma sup_covering (x y : Coverage C) (B : C) :
+    (x ⊔ y).covering B = x.covering B ∪ y.covering B :=
+  union_covering x y B
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Sites/Coverage.lean:309]:
```suggestion
  rfl
```
To allow dsimp to use this

File: Mathlib/CategoryTheory/Sites/Coverage.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/CategoryTheory/Sites/Coverage.lean]: The (minor) problem with having `union` at all is that whenever you use it, you can't apply any of the lemmas from `SemilatticeSup` without first using ` rw [←sup_eq_union]`.

Merging the two removes this unnecessary extra step, and is consistent with the approach used in most other places in mathlib (the exception being Set and Finset, which duplicate all the API instead)

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coverage.lean]: Ok, I'm convinced. I'll remove `union`

**Review by eric-wieser — COMMENTED** [review]
You might also want:
```lean
/-- The empty set is the smallest coverage -/
instance : OrderBot (Coverage C) where
  bot :=
  { covering := fun _ => ∅
    pullback := fun _ _ _ _ => False.elim }
  bot_le _ _ := bot_le
```
(as well as a `bot_covering` lemma)

**Comment by dagurtomas** [comment]
> You might also want:
> 
> ```lean
> /-- The empty set is the smallest coverage -/
> instance : OrderBot (Coverage C) where
>   bot :=
>   { covering := fun _ => ∅
>     pullback := fun _ _ _ _ => False.elim }
>   bot_le _ _ := bot_le
> ```
> 
> (as well as a `bot_covering` lemma)

I'll merge it as is once CI passes, to get on with what I'm using this for. But I can open a new PR with this `bot` stuff once it's merged
